US08754107B2
2-(6,7-Dichloroquinazolin-4-ylamino)-1-((2S,3R)-2-methyl-3-(tetrahydro-2H-pyran-4-ylamino)pyrrolidin-1-yl)ethanone was synthesized from 1-((2S,3R)-3-Amino-2-methylpyrrolidin-1-yl)-2-(6,7-dichloroquinazolin-4-ylamino)ethanone and dihydro-2H-pyran-4(3H)-one using general procedure E. RP-HPLC (Table 1, Method a) Rt 1.52; m/z: (M+H)+ 438.

reactant | 1-((2S,3R)-3-Amino-2-methylpyrrolidin-1-yl)-2-(6,7-dichloroquinazolin-4-ylamino)ethanone | N[C@H]1[C@@H](N(CC1)C(CNC1=NC=NC2=CC(=C(C=C12)Cl)Cl)=O)C | C15H17Cl2N5O
reactant | dihydro-2H-pyran-4(3H)-one | O1CCC(CC1)=O | C5H8O2
product | 2-(6,7-Dichloroquinazolin-4-ylamino)-1-((2S,3R)-2-methyl-3-(tetrahydro-2H-pyran-4-ylamino)pyrrolidin-1-yl)ethanone | ClC=1C=C2C(=NC=NC2=CC1Cl)NCC(=O)N1[C@H]([C@@H](CC1)NC1CCOCC1)C | C20H25Cl2N5O2
